US07084250B2
4-(2-Methyl-5-oxooxazol-4-ylidenemethyl)benzonitrile
Acetone (80.0 l) was introduced into a mixture of 4-formylbenzonitrile (15.0 kg, 114.5 mol), N-acetylglycine (19.2 kg, 162.4 mol) and anhydrous sodium acetate (9.4 kg, 114.5 mol) followed by introduction, with stirring, of acetic anhydride (35.0 l, 370.5 mol). The reaction mixture was stirred under reflux for 1 h. The resulting thin yellow suspension was cooled to 50° C. and ice-water (200 l) was added as quickly as possible, with stirring and cooling. The mixture was stirred at 20° C. for another 1 h. To isolate the product, the yellow suspension was pressed onto a centrifuge and washed with deionized water (75 l), isopropanol (40 l) and methyl-tert-butylether (75 l). The product was dried under reduced pressure at 40° C. Yield 18.17 kg (85.7 mol, 75.2% of theory). M.p.: 192–193° C.; MS (DCl): m/z=213 [M+H+]; 1H-NMR (DMSO-d6): δ=2.42 (s, 3H), 7.30 (s, 1H), 7.96 (d, 2H), 8.33 (d, 2H).

reactant | 4-formylbenzonitrile | 114.5 mol, 15.0 kg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | N-acetylglycine | 162.4 mol, 19.2 kg | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 114.5 mol, 9.4 kg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 370.5 mol, 35.0 l | C(C)(=O)OC(C)=O | C4H6O3
solvent | Acetone | 80.0 l | CC(=O)C | C3H6O
product | 4-(2-Methyl-5-oxooxazol-4-ylidenemethyl)benzonitrile | CC=1OC(C(N1)=CC1=CC=C(C#N)C=C1)=O | C12H8N2O2
